US07211577B2
Preparation of 4-(4-benzyl-1-piperazinyl)methyl-6-(4-fluoro-3-methylphenyl)-2-isobutyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-benzylpiperazine were reacted to yield the title compound as a pale yellow oil (yield: 98.6%).

reactant | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C)C | C17H21FN2O4S
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-(4-benzyl-1-piperazinyl)methyl-6-(4-fluoro-3-methylphenyl)-2-isobutyl-2H-pyridazin-3-one | yield: 98.6% | C(C1=CC=CC=C1)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CC(C)C)=O | C27H33FN4O
